US07276516B2
N-Cyclopropylmethyl-4-(3-isopropyl-indole-1-sulfonyl)-benzamide
Stir mixture of 4-(3-isopropyl-indole-1-sulfonyl)-benzoic acid (0.181 g, 0.53 mmol), PyBOP (0.243 g, 0.55 mmol) and cyclopropylmethyl amine (0.064 g, 0.59 mmol) in CH2Cl2 (20 mL) add Hunigs base (0.28 mL, 1.62 mmol) under N2. Stir the resulting mixture overnight at ambient temperature. Extract the reaction with H2O, wash with brine dry (MgSO4), filter, evaporate and chromatograph using hexane-EtOAc (0-100%) to give 0.183 g of the title compound as an off white solid: Mass spectrum (m/e) (M+H) 397.1593; found 397.1586.

reactant | 4-(3-isopropyl-indole-1-sulfonyl)-benzoic acid | 0.53 mmol, 0.181 g | C(C)(C)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C18H17NO4S
reactant | PyBOP | 0.55 mmol, 0.243 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | cyclopropylmethyl amine | 0.59 mmol, 0.064 g | C1(CC1)CN | C4H9N
reactant | Hunigs base | 1.62 mmol, 0.28 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclopropylmethyl-4-(3-isopropyl-indole-1-sulfonyl)-benzamide | 0.183 g | C1(CC1)CNC(C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C(C)C)=O | C22H24N2O3S
